US07202311B2
Bis(4-methoxyphenyl)-tert-butylphosphine Oxide Mixture
Magnesium (30.1 g, 1.24 mol), tetrahydrofuran (400 mL), and 1,2-dibromoethane (1 drop) were stirred under nitrogen for 1 h. The mixture was then heated to reflux and the heating stopped. 4-Bromoanisole (224.4 g, 1.20 mol) was added as a mixture at a rate to maintain a slow reflux (67° C.) over a period of 4 h. The reaction mixture was then held for a further 3h at 70° C. To a tetrahydrofuran (500 mL) solution of phosphorus oxychloride (92.0g, 0.60 mol) was added by drop tert-butylmagnesium chloride (300 mL, 2.0 M, 0.60 mole) over 5.5 h and held at 40° C. for 1 h. Then the 4-methoxy-phenylmanesium bromide solution prepared above was added by drop over 2 h at a rate to maintain 40° C. The mixture was allowed to stir for 2 days at rt. The reaction mixture was worked up to yield a pale-yellow sticky solid (135.6 g, 71%). 31P NMR (d6-DMSO): δ 44.7 (s, 43.0%), 37.8 (s, 7.0%), 26.5 (s, 7.6%), 25.4 (s, 36.4%), 14.9 (s, 6.0%).

reactant | Magnesium | 1.24 mol, 30.1 g | [Mg] | Mg
reactant | 4-Bromoanisole | 1.20 mol, 224.4 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | phosphorus oxychloride | 0.60 mol, 92.0g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tert-butylmagnesium chloride | 0.60 mole, 2.0 M, 300 mL | C(C)(C)(C)[Mg]Cl
catalyst | 1,2-dibromoethane | 1 drop | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | Bis(4-methoxyphenyl)-tert-butylphosphine Oxide | 135.6 g, 71% | COC1=CC=C(C=C1)P(C(C)(C)C)(C1=CC=C(C=C1)OC)=O | C18H23O3P
